US07342118B2
2-(6,8-Difluoro-1,1-dimethyl-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide
2-Amino-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide was reacted with 6,8-Difluoro-1,1-dimethyl-3,4-dihydro-1H-naphthalen-2-one to afford the title compound: C13 NMR (100 MHz, CDCl3) 14.3, 19.4, 19.7, 22.5, 23.0, 24.3, 24.8, 26.3, 26.6, 27.4, 27.5, 29.7, 36.4, 37.1, 38.0, 45.8, 47.6, 56.0, 59.2, 60.7, 62.5, 63.0, 65.5, 67.3, 104.7, 104.8, 111.0, 110.2, 112.5, 131.1, 131.2, 137.2, 172.2; MS m/z 502.3. (M+1).

reactant | 2-Amino-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)N)=O | C16H29N5O
reactant | 6,8-Difluoro-1,1-dimethyl-3,4-dihydro-1H-naphthalen-2-one | FC=1C=C2CCC(C(C2=C(C1)F)(C)C)=O | C12H12F2O
product | 2-(6,8-Difluoro-1,1-dimethyl-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid [1-(1,1-dimethyl-2-pyrrolidin-1-yl-ethyl)-1H-imidazol-4-yl]-amide | CC(CN1CCCC1)(C)N1C=NC(=C1)NC(C(CCC)NC1C(C2=C(C=C(C=C2CC1)F)F)(C)C)=O | C28H41F2N5O
